US07713994B2
(4Z)-4-{[(3-Hydroxy-4,5-dimethoxybenzyl)amino)methylene}-6-phenylisoquinoline-1,3(2H,4H-dione
Using the procedure described for the preparation of example 46, 50 mg of orange solid (40% yield) is obtained from 80 mg (0.29 mmol) of 4-methoxymethylene-6-phenyl-3-yl-isoquinolin-(4H)-1,3-dione and 3-hydroxy-4,5-dimethoxybenzylamine 115 mg (0.29 mmol), (prepared similarly to (4E)-6,7-dimethoxy-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione and 3-hydroxy-4-methoxy-benzylamine hydrogen chloride, except methoxy amine hydrogen chloride is used instead of hydroxylamine hydrogen chloride); mp 250-251° C.

reactant | (4E)-6,7-dimethoxy-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | COC=1C=C2\C(\C(NC(C2=CC1OC)=O)=O)=C/OC | C13H13NO5
reactant | 3-hydroxy-4-methoxy-benzylamine hydrogen chloride | Cl.OC=1C=C(CN)C=CC1OC
reactant | methoxy amine hydrogen chloride | Cl.CON
product | (4Z)-4-{[(3-Hydroxy-4,5-dimethoxybenzyl)amino)methylene}-6-phenylisoquinoline | OC=1C=C(CN\C=C\2/CN=CC3=CC=C(C=C23)C2=CC=CC=C2)C=C(C1OC)OC | C25H24N2O3
